US05439917
2,3-Dimethyl-7-(o-methylthiophenacyl)pyrrolo[2,3-b]pyridinehydrobromide.
A solution of 0,2 g (1,4 mmol) 2,3-dimethylpyrrolo[2,3-b]pyridine and 0,34 g (1,4 mmol) o-methylthiophenacyl bromide was stirred at room temperature for 4 h. The precipitated product was filtred off and dried affording 0,11 g (20%) of the title compound.

reactant | 2,3-dimethylpyrrolo[2,3-b]pyridine | 1,4 mmol, 0,2 g | CC1=C(C=2C(=NC=CC2)N1)C | C9H10N2
reactant | o-methylthiophenacyl bromide | 1,4 mmol, 0,34 g | CC1=C(C(CBr)=S)C=CC=C1 | C9H9BrS
product | 2,3-Dimethyl-7-(o-methylthiophenacyl)pyrrolo[2,3-b]pyridinehydrobromide | 0,11 g, 20% | Br.CC1=C(C=2C(N(C=CC2)CC(=S)C2=C(C=CC=C2)C)=N1)C | InChI=1S/C18H18N2S.BrH/c1-12-7-4-5-8-15(12)17(21)11-20-10-6-9-16-13(2)14(3)19-18(16)20;/h4-10H,11H2,1-3H3;1H
